US04524152
(e) 3-Azido-1,1,1-trifluoro-3-methylbutane
The reaction mixture was distilled at ca. 65 mmHg pressure until 70 g of condensate had been collected; further distillate when examined by g.l.c. (2 m silicone, 50°) contained none of the required azide. The distillate was added to ice water (500 ml), shaken, and the lower organic layer (17.1 g) separated, shaken with an excess of aqueous sodium bicarbonate solution, then with water, and dried (Na2SO4). The washings were added to the ice-water layer, which was then extracted three times with ether. The combined ether extracts were washed with an excess of aqueous sodium bicarbonate solution, then with water and dried. The ether was removed to leave a residue of the azide concentrate (13.0 g). The azide was not isolated in the pure state, but as a precaution was handled diluted with ether, olefin and unchanged bromo-compound. The separated organic layer (17.1 g, above) by g.l.c. (2 m silicone, 50°) contained 1,1,1-trifluoro-3-methyl-2-butene (27%), 3-bromo-1,1,1-trifluoro-3-methylbutane (17%) and the azide. The product yields estimated by g.l.c. were 3-azide-1,1,1-trifluoro-3-methylbutane (10.0 g, 15%), 1,1,1-trifluoro-3-methyl-2-butene (27.5 g, 55%), and 3-bromo-1,1,1-trifuloro-3-methylbutane unreacted (4.4 g, 5%). The remaining material was partly accounted for as 1,1,1-trifluoro-3-methyl-2-butene in the ether distillate.

reactant | 1,1,1-trifluoro-3-methyl-2-butene | FC(C=C(C)C)(F)F | C5H7F3
reactant | 3-bromo-1,1,1-trifluoro-3-methylbutane | BrC(CC(F)(F)F)(C)C | C5H8BrF3
reactant | azide | [N-]=[N+]=[N-]
reactant | 1,1,1-trifluoro-3-methyl-2-butene | 27.5 g | FC(C=C(C)C)(F)F | C5H7F3
solvent | ether | CCOCC | C4H10O
product | 3-Azido-1,1,1-trifluoro-3-methylbutane | N(=[N+]=[N-])C(CC(F)(F)F)(C)C | C5H8F3N3
